US06747023B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-[N-(morpholin-4-yl)carbamoyl]piperazine hydrochloride
Starting materials: lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate, 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-[N-(morpholin-4-yl)carbamoyl]piperazine trifluoroacetate

reactant | lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | CC1CC2=C(CN1)SC(=N2)C(=O)[O-].[Li+]
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-[N-(morpholin-4-yl)carbamoyl]piperazine trifluoroacetate | FC(C(=O)O)(F)F.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)C(NN1CCOCC1)=O
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]-2-[N-(morpholin-4-yl)carbamoyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)C(NN1CCOCC1)=O | InChI=1S/C27H31ClN6O5S2.ClH/c1-17-12-22-24(15-29-17)40-26(30-22)27(36)34-7-6-33(16-23(34)25(35)31-32-8-10-39-11-9-32)41(37,38)21-5-3-18-13-20(28)4-2-19(18)14-21;/h2-5,13-14,17,23,29H,6-12,15-16H2,1H3,(H,31,35);1H
